US08293754B2
2-(2-Aminoethyl)-5-methyl-4-oxo-3,4-dihydrothieno-[2,3-d]pyrimidine-6-carboxylic acid Hydrobromide
A mixture of 387 mg of so obtained 2-(2-benzyloxycarbonyl-aminoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid and 4.5 mL of hydrobromic acid was stirred at room temperature for 3 hours, and thereafter the solvent was distilled off under reduced pressure to provide 410 mg (quantitative) of the title compound.

reactant | 2-(2-benzyloxycarbonyl-aminoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | C(C1=CC=CC=C1)OC(=O)C(CC=1NC(C2=C(N1)SC(=C2C)C(=O)O)=O)N | C18H17N3O5S
reactant | hydrobromic acid | 4.5 mL | Br | BrH
product | 2-(2-Aminoethyl)-5-methyl-4-oxo-3,4-dihydrothieno-[2,3-d]pyrimidine-6-carboxylic acid Hydrobromide | Br.NCCC=1NC(C2=C(N1)SC(=C2C)C(=O)O)=O | InChI=1S/C10H11N3O3S.BrH/c1-4-6-8(14)12-5(2-3-11)13-9(6)17-7(4)10(15)16;/h2-3,11H2,1H3,(H,15,16)(H,12,13,14);1H
